### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/GeneralLinearGroup): polynomial functions on matrices over an infinite field are determined by their values on GL

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds `MvPolynomial.eq_of_eval_eq_on_gl`: two polynomials in `MvPolynomial (m × m) k` over an infinite field `k` are equal whenever their evaluations agree at every invertible matrix.

The proof multiplies by the generic determinant `det (Matrix.mvPolynomialX m m k)` so that `MvPolynomial.funext` applies (covering both invertible and non-invertible specializations of the variables), then divides by it (it is nonzero by `Matrix.det_mvPolynomialX_ne_zero`) using that the polynomial ring is an integral domain.

The lemma is useful when reasoning about polynomial representations of `GL n k`, where natural identities are easiest to check on `GL n k` itself but the final statement lives at the level of polynomials.

The lemma is placed in a new file `Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean` because the existing `Mathlib/LinearAlgebra/Matrix/MvPolynomial.lean` is upstream of `Adjugate`, which is itself upstream of `GeneralLinearGroup.Defs` — so we cannot import `GeneralLinearGroup.Defs` from `Matrix.MvPolynomial` without creating a cycle.

🤖 Prepared with Claude Code

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+    have hdet_eval :
+        MvPolynomial.eval s (Matrix.det (Matrix.mvPolynomialX m m k)) =
+          Matrix.det (Matrix.of fun i j : m => s (i, j)) := by
+      rw [(MvPolynomial.eval s).map_det]
+      congr 1
+      ext i j
+      simp [Matrix.mvPolynomialX]
+    rw [hdet_eval]
+    by_cases hdet_s :
+        Matrix.det (Matrix.of fun i j : m => s (i, j)) = 0
```
Comment (wwylele) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean]:
```suggestion
    by_cases hdet_s : Matrix.det (Matrix.of fun i j : m => s (i, j)) = 0
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+if `det (Matrix.of fun i j => s (i, j)) = 0` the determinant factor kills it; otherwise the
+matrix is invertible and the hypothesis applies. By `MvPolynomial.funext` the product is zero,
+and since `det(X) ≠ 0` and `MvPolynomial _ k` is an integral domain, `p = q`. -/
+theorem eq_of_eval_eq_on_gl {m k : Type*} [Fintype m] [DecidableEq m] [Field k] [Infinite k]
+    {p q : MvPolynomial (m × m) k}
+    (h : ∀ g : Matrix.GeneralLinearGroup m k,
+           MvPolynomial.eval (fun ij : m × m => (g : Matrix m m k) ij.1 ij.2) p =
+           MvPolynomial.eval (fun ij : m × m => (g : Matrix m m k) ij.1 ij.2) q) :
+    p = q := by
+  classical
```
Comment (wwylele) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean]: Doesn't seem needed
```suggestion
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
+/-
+Copyright (c) 2026 Scott Morrison. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Scott Morrison
+-/
+module
+
+public import Mathlib.Algebra.MvPolynomial.Funext
+public import Mathlib.LinearAlgebra.Matrix.MvPolynomial
+public import Mathlib.LinearAlgebra.Matrix.GeneralLinearGroup.Defs
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean:9]:
```suggestion
public import Mathlib.Algebra.MvPolynomial.Funext
public import Mathlib.LinearAlgebra.Matrix.GeneralLinearGroup.Defs
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean [hunk 4]
```diff
@@ -0,0 +1,59 @@
...
+The proof considers `(p - q) * det(X)`, where `det(X) := Matrix.det (Matrix.mvPolynomialX m m k)`
+is the generic determinant polynomial. Evaluated at any `s : m × m → k`, this product vanishes:
+if `det (Matrix.of fun i j => s (i, j)) = 0` the determinant factor kills it; otherwise the
+matrix is invertible and the hypothesis applies. By `MvPolynomial.funext` the product is zero,
+and since `det(X) ≠ 0` and `MvPolynomial _ k` is an integral domain, `p = q`. -/
+theorem eq_of_eval_eq_on_gl {m k : Type*} [Fintype m] [DecidableEq m] [Field k] [Infinite k]
+    {p q : MvPolynomial (m × m) k}
+    (h : ∀ g : Matrix.GeneralLinearGroup m k,
+           MvPolynomial.eval (fun ij : m × m => (g : Matrix m m k) ij.1 ij.2) p =
+           MvPolynomial.eval (fun ij : m × m => (g : Matrix m m k) ij.1 ij.2) q) :
```
Comment (dagurtomas) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean:35]:
```suggestion
          MvPolynomial.eval (fun ij : m × m => (g : Matrix m m k) ij.1 ij.2) p =
          MvPolynomial.eval (fun ij : m × m => (g : Matrix m m k) ij.1 ij.2) q) :
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean [hunk 5]
```diff
@@ -0,0 +1,59 @@
...
+      ext i j
+      simp [Matrix.mvPolynomialX]
+    rw [hdet_eval]
+    by_cases hs_det : Matrix.det (Matrix.of fun i j : m => s (i, j)) = 0
+    · rw [hs_det, mul_zero]
+    · have hh : (eval s) p = (eval s) q :=
+        h (Matrix.GeneralLinearGroup.mkOfDetNeZero
+          (Matrix.of fun i j : m => s (i, j)) hs_det)
+      rw [hh, sub_self, zero_mul]
+  exact sub_eq_zero.mp ((mul_eq_zero.mp hprod).resolve_right hdet_ne)
```
Comment (dagurtomas) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean]:
```suggestion
  have hdet_ne : Matrix.det (Matrix.mvPolynomialX m m k) ≠ 0 :=
    Matrix.det_mvPolynomialX_ne_zero m k
  have hdet_eval (s : m × m → k) :
      MvPolynomial.eval s (Matrix.det (Matrix.mvPolynomialX m m k)) =
        Matrix.det (Matrix.of fun i j : m => s (i, j)) := by
    rw [(MvPolynomial.eval s).map_det]
    congr 1
    ext i j
    simp [Matrix.mvPolynomialX]
  have hprod : (p - q) * Matrix.det (Matrix.mvPolynomialX m m k) = 0 := by
    apply MvPolynomial.funext
    intro s
    rw [map_mul, map_sub, map_zero, hdet_eval]
    by_cases hs_det : Matrix.det (Matrix.of fun i j : m => s (i, j)) = 0
    · rw [hs_det, mul_zero]
    · have hh : (eval s) p = (eval s) q :=
        h (Matrix.GeneralLinearGroup.mkOfDetNeZero
          (Matrix.of fun i j : m => s (i, j)) hs_det)
      rw [hh, sub_self, zero_mul]
  grind [mul_eq_zero]
```

Also think about whether some of these `have`'s should be separate lemmas

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean:35]: Done, thanks.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean (hunk 5 above)
Comment (kim-em) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/MvPolynomial.lean]: Good call — extracted the reusable one (`hdet_eval`: evaluating the generic determinant polynomial at a point gives the determinant of the substituted matrix) as `Matrix.eval_det_mvPolynomialX`, next to `det_mvPolynomialX_ne_zero` in `Mathlib/LinearAlgebra/Matrix/MvPolynomial.lean`. The other two `have`s (`hdet_ne`, just naming `det_mvPolynomialX_ne_zero`, and `hprod`, the crux step specific to `p`/`q`) I left inline since they are not reusable. Proof is now much shorter. Thanks!

**Comment by dagurtomas** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
